* RCJ510N25 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/06/10
******************D G S
.SUBCKT RCJ510N25 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 40.9m
D2       22 11 DDG
R2        2 22 15.2
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=62.511E-6
+ RS=1.0000E-3
+ RD=0
+ VTO={5.1574*(1+tol1)}
+ RDS=25.000E6
+ TOX=2.0000E-6
+ CGSO=6.77n
+ CGDO=60p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=2.2
+ ETA=0.0001
+ KAPPA=0
+ NFS=40G
.MODEL DDS D
+ IS=318.72E-12
+ N=1.1489
+ RS=3.4659E-3
+ IKF=7.0527
+ CJO=1.6143E-9
+ M=.67234
+ VJ=.75167
+ BV=250
+ TT=150n
.MODEL DDG D
+ CJO=1.9086E-9
+ M=.73913
+ VJ=.75123
+ N=10000
+ FC=-2.0
.MODEL RTH RES
+ TC1=0.0095
+ TC2=0.00003
.ENDS RCJ510N25
