* RCJ700N20 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/11/24
******************D G S
.SUBCKT RCJ700N20 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 13.3m
D2       22 11 DDG
R2        2 22 15
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=55.546E-6
+ RS=10.000E-3
+ RD=0
+ VTO={4.4616*(1+tol1)}
+ RDS=8.0000E6
+ TOX=2.0000E-6
+ CGSO=6.64n
+ CGDO=80p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1.2
+ ETA=0.0001
+ KAPPA=0
+ NFS=40G
.MODEL DDS D
+ IS=32.019E-12
+ N=1.0551
+ RS=1.7367E-3
+ IKF=6.3168
+ CJO=1.6742E-9
+ M=.64869
+ VJ=.75785
+ BV=200
+ TT=115n
.MODEL DDG D
+ CJO=2.3235E-9
+ M=.77829
+ VJ=.76195
+ N=10000
+ FC=-2.5
.MODEL RTH RES
+ TC1=0.016
+ TC2=0.000034
.ENDS RCJ700N20
