* RQ3P300BH NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2021/09/01
******************D G S
.SUBCKT RQ3P300BH 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 9.011m
D2       22 11 DDG
R2        2 22 8.8
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=153.70E-6
+ RS=1.0000E-3
+ RD=0
+ VTO=3.7054
+ RDS=30.000E6
+ TOX=2.0000E-6
+ CGSO=968p
+ CGDO=12p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.9
+ ETA=0.8500E-3
+ KAPPA=0
+ NFS=32G
.MODEL DDS D
+ IS=8.6498E-12
+ N=1.0858
+ RS=320.00E-6
+ IKF=1.9834
+ CJO=874.25E-12
+ M=0.9855
+ VJ=18.7765
+ BV=100
+ TT=15n
.MODEL DDG D
+ CJO=213.85E-12
+ M=3.1873
+ VJ=24.814
+ N=10000
+ FC=0.3
.MODEL RTH RES
+ TC1=0.0094
+ TC2=0.000029
.ENDS
