* RSJ301N10 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2018/03/01
******************D G S
.SUBCKT RSJ301N10 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 26.9m
D2       22 11 DDG
R2        2 22 7.3
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=218.08E-6
+ RS=5.0000E-3
+ RD=0
+ VTO={1.8616*(1+tol1)}
+ RDS=10.000E6
+ TOX=2.0000E-6
+ CGSO=1.95n
+ CGDO=50p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1
+ ETA=0.0001
+ KAPPA=0
+ NFS=12G
.MODEL DDS D
+ IS=22.080E-12
+ N=1.0672
+ RS=3.6980E-3
+ IKF=2.1090
+ CJO=5.0430E-10
+ M=.5801
+ VJ=.6727
+ BV=100
+ TT=55n
.MODEL DDG D
+ CJO=7.2400e-10
+ M=.8306
+ VJ=1.4957
+ N=10000
+ FC=0.01
+ T_ABS=25
.MODEL RTH RES
+ TC1=0.0082
+ TC2=0.000017
.ENDS RSJ301N10
