* RSJ400N10 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/10/07
******************D G S
.SUBCKT RSJ400N10 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 17.7m
D2       22 11 DDG
R2        2 22 5.1
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=363.54E-6
+ RS=1.0000E-3
+ RD=0
+ VTO={1.8914*1+(tol1)}
+ RDS=100.00E6
+ TOX=2.0000E-6
+ CGSO=3.39n
+ CGDO=80p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1.0
+ ETA=0.0001
+ KAPPA=0
+ NFS=11G
.MODEL DDS D
+ IS=52.736E-12
+ N=1.0880
+ RS=1.3690E-3
+ IKF=4.0996
+ CJO=806.55E-12
+ M=.62204
+ VJ=.75829
+ BV=100
+ TT=47n
.MODEL DDG D
+ CJO=2.1240E-9
+ M=.86715
+ VJ=.75938
+ N=10000
+ FC=-1.4
.MODEL RTH RES
+ TC1=0.0096
+ TC2=0.000034
.ENDS RSJ400N10
