* RSJ550N10 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/08/22
******************D G S
.SUBCKT RSJ550N10 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 10.8m
D2       22 11 DDG
R2        2 22 7.7
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=509.11E-6
+ RS=1.0000E-3
+ RD=0
+ VTO=1.9541
+ RDS=100.00E6
+ TOX=2.0000E-6
+ CGSO=5.80n
+ CGDO=100p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1.1
+ ETA=0.0001
+ KAPPA=0
+ NFS=11G
.MODEL DDS D
+ IS=108.17E-12
+ N=1.0910
+ RS=1.9067E-3
+ IKF=7.8906
+ CJO=1.3108E-9
+ M=.63577
+ VJ=.76399
+ BV=100
+ TT=58n
.MODEL DDG D
+ CJO=3.9421E-9
+ M=.81844
+ VJ=.75784
+ N=10000
+ FC=-1.9
.MODEL RTH RES
+ TC1=0.0068
+ TC2=0.00002
.ENDS RSJ550N10
